US06613743B2
tert-Butyl-N-((1S,2R)-1-benzyl-3-(cyclopentyloxy)[(3-nitrophenyl)sulfonyl]amino-2-hydroxypropyl)carbamate.
tert-Butyl-N-((1S,2R)-1-benzyl-3-(cyclopentyloxy)amino-2-hydroxypropyl)carbamate (0.52 g, 1.4 mmol) was combined with 3-nitrobenzenesulfonyl chloride (0.47 g, 2.1 mmol) in freshly distilled THF (5 ml). Diisopropylethylamine (0.74 ml, 4.3 mmol) was added and the reaction was stirred at room temperature overnight. Reaction mixture was diluted in EtOAc and washed with 0.5 N KHSO4, and brine. Organic phase was dried with MgSO4 and solvent was removed in vacuo. Purication by flash chromatography (1:4/EtOAc/Hex gradient to 1:3, to 1:2, to 1:1 and then to 2:1). Recovered 0.44 g (56%) of the product as a white foam. Rf=0.45 (2:1 EtOAc/Hex), 1H NMR (CDCl3) 8.67 (1H, s), 8.49 (1H, d), 8.08 (1H, d), 7.77 (1H, t), 7.36-7.17 (5H, m), 4.88 (1H,m), 4.62 (1H,b), 3.88-3.71 (2H,m), 3.41 (1H,b), 3.07 (1H,b), 2.98-2.79 (3H,m), 1.92-1.75 (4H,m), 1.73-1.52 (4H,m), 1.45 (9H,s).

reactant | tert-Butyl-N-((1S,2R)-1-benzyl-3-(cyclopentyloxy)amino-2-hydroxypropyl)carbamate | 1.4 mmol, 0.52 g | C(C)(C)(C)OC(N[C@H]([C@@H](CNOC1CCCC1)O)CC1=CC=CC=C1)=O | C20H32N2O4
reactant | 3-nitrobenzenesulfonyl chloride | 2.1 mmol, 0.47 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | Diisopropylethylamine | 4.3 mmol, 0.74 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl-N-((1S,2R)-1-benzyl-3-(cyclopentyloxy)[(3-nitrophenyl)sulfonyl]amino-2-hydroxypropyl)carbamate | C(C)(C)(C)OC(N[C@H]([C@H](C(OC1CCCC1)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-])O)CC1=CC=CC=C1)=O | C26H35N3O8S
